US07767675B2
Step 1. 5-(2-aminopyrimidin-5-yl)picolinic acid
Sodium carbonate (0.636 g, 6.0 mmol) in water (2.0 mL) was added to a mixture of 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (0.442 g, 2.0 mmol), 5-bromopyridine-2-carboxylic acid methyl ester (0.518 g, 2.4 mmol) and tetrakis(triphenylphosphine)palladium (69 mg, 0.06 mmol) in ethanol (3.0 mL) and toluene (3.0 mL). The resulting mixture was heated at 120° C. for 3 h. The organic solvents were removed under reduced pressure. The residue was diluted with water, and adjusted with 1N HCl to pH=4. The precipitates were collected by filtration, washed with water and EtOAc, and dried to give the desired product (0.25 g, 58%). LCMS: (M+H)=217.0.

reactant | Sodium carbonate | 6.0 mmol, 0.636 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | 2.0 mmol, 0.442 g | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
reactant | 5-bromopyridine-2-carboxylic acid methyl ester | 2.4 mmol, 0.518 g | COC(=O)C1=NC=C(C=C1)Br | C7H6BrNO2
solvent | water | 2.0 mL | O | H2O
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.06 mmol, 69 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-aminopyrimidin-5-yl)picolinic acid | 0.25 g, 58% | NC1=NC=C(C=N1)C=1C=CC(=NC1)C(=O)O | C10H8N4O2
